US09376418B2
n-BuLi was added dropwise to a solution of 2,5-dibromopyridine in toluene (30 mL) at −78° C. The reaction mixture was stirred for 1 hour at −78° C., then a solution of methyl 2,2-dimethyl-4-oxocyclohexanecarboxylate in toluene (5 mL) was added. The reaction mixture was warm to room temperature, quenched with saturated aqueous ammonium chloride, extracted with CH2C12 (3×), dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford methyl 4-(5-bromopyridin-2-yl)-4-hydroxy-2,2-dimethylcyclohexanecarboxylate as a colorless oil. MS ESI calc'd for C15H21BrNO3 [M+H]+ 342 and 344. found 342 and 344.

reactant | n-BuLi | [Li]CCCC
reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | methyl 2,2-dimethyl-4-oxocyclohexanecarboxylate | CC1(C(CCC(C1)=O)C(=O)OC)C | C10H16O3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(5-bromopyridin-2-yl)-4-hydroxy-2,2-dimethylcyclohexanecarboxylate | BrC=1C=CC(=NC1)C1(CC(C(CC1)C(=O)OC)(C)C)O | C15H20BrNO3
